US07196111B2
To a solution of 42 mg (0.092 mmol) of 7-cyclohexyl-6-(4′-methanesulfonyl-biphenyl-4-yl)-pyrazolo[1,5-a]pyrimidine-3-carbonitrile in 1 mL of toluene and 1.2 mL of dimethylformamide (DMF) was added 76 mg (0.55 mmol) of triethylamine hydrochloride (Et3N—HCl), and 36 mg (0.55 mmol) of sodium azide and the resulting heterogeneous mixture was heated at 120° C. for 72 h, during which time 76 mg (0.55 mmol) of triethylamine hydrochloride (Et3N—HCl), and 36 mg (0.55 mmol) of sodium azide was added to the reaction mixture after every 24 h. The mixture was then cooled to rt, filtered and concentrated to a residue which was purified via reverse-phase chromatography to afford (after lyophilization) 7 mg (15% yield) of 7-cyclohexyl-6-(4′-methanesulfonyl-biphenyl-4-yl)-3-(1H-tetrazol-5-yl)-pyrazolo[1,5-a]pyrimidine as a white solid (90% purity, entry 443) as indicated by 1H-NMR; LC-MS calcd for C26H25N7O2S [M++H]+ 500.18; found 500.2.

reactant | 7-cyclohexyl-6-(4′-methanesulfonyl-biphenyl-4-yl)-pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 0.092 mmol, 42 mg | C1(CCCCC1)C1=C(C=NC=2N1N=CC2C#N)C2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)C | C26H24N4O2S
reactant | triethylamine hydrochloride | 0.55 mmol, 76 mg | Cl.C(C)N(CC)CC
reactant | sodium azide | 0.55 mmol, 36 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 0.55 mmol, 76 mg | Cl.C(C)N(CC)CC
reactant | sodium azide | 0.55 mmol, 36 mg | [N-]=[N+]=[N-].[Na+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 1.2 mL | CN(C=O)C | C3H7NO
product | 7-cyclohexyl-6-(4′-methanesulfonyl-biphenyl-4-yl)-3-(1H-tetrazol-5-yl)-pyrazolo[1,5-a]pyrimidine | 7 mg, 15% yield | C1(CCCCC1)C1=C(C=NC=2N1N=CC2C2=NN=NN2)C2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)C | C26H25N7O2S
